US08440689B2
A. Methyl 6-chloro-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate
A solution of methyl 2,6-dichloro-4-cyanonicotinate (500 mg, 2.164 mmol), 4-fluoro-3-methylaniline (325 mg, 2.60 mmol) and Et3N (0.452 mL, 3.25 mmol) in ACN (5 mL) was stirred at 50° C. for 24 h. Water and EtOAc were added to the mixture and the aqueous phase was extracted with EtOAc. The organic phases were combined, washed with H2O and brine, dried over MgSO4, and evaporated. The residue was purified by chromatography on SiO2 to give the title compound, which contains some starting material and was used without further purification (390 mg). [M+H] calc'd for C15H11ClFN3O2, 320. found, 320.

reactant | methyl 2,6-dichloro-4-cyanonicotinate | 2.164 mmol, 500 mg | ClC1=C(C(=O)OC)C(=CC(=N1)Cl)C#N | C8H4Cl2N2O2
reactant | 4-fluoro-3-methylaniline | 2.60 mmol, 325 mg | FC1=C(C=C(N)C=C1)C | C7H8FN
reactant | Et3N | 3.25 mmol, 0.452 mL | CCN(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ACN | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 6-chloro-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=C(C=C1)F)C | C15H11ClFN3O2
